US07307165B2
Synthesis of 6-ethyl-2-methylimidazo[1,2-b]pyridazine
6-Chloro-2-methylimidazo[1,2-b]pyridazine (5.00 g, 29.8 mmol) and [1,3-bis(diphenylphosphino)propane]nickel(II) dichloride (0.08 g, 0.15 mmol) were suspended in dry ether (40 ml)-dry THF (20 ml), and a solution of ethylmagnesium bromide in ether (3 M, 15 ml, 45 mmol) was added dropwise thereto with stirring under ice-cooling over 5 minutes (internal temperature 10° C. or less). The temperature of the reaction solution was increased to room temperature, and the mixture was stirred at the same temperature for 2 hours and under reflux with heating for 3 hours. The reaction solution was left to cool to room temperature under stirring, and water (30 ml) was added little by little. Further, the pH of reaction mixture was adjusted to about 5 to 6 with concentrated hydrochloric acid under stirring at room temperature. The organic layer and the aqueous layer were separated from each other, and the aqueous layer was extracted with ethyl acetate (70 ml×2). The organic layers were combined and washed with water (250 ml×3). The organic layer was dried over magnesium sulfate and concentrated, and the residues were purified by silica gel column chromatography (chloroform:ethyl acetate=2:1→1:1), and the resulting crude oil was further purified by silica gel column chromatography (ethyl acetate), and the title compound was obtained as pale red oil. The yield was 1.32 g (27.4%).

reactant | 6-Chloro-2-methylimidazo[1,2-b]pyridazine | 29.8 mmol, 5.00 g | ClC=1C=CC=2N(N1)C=C(N2)C | C7H6ClN3
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | water | 30 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 40 ml | CCOCC | C4H10O
catalyst | [1,3-bis(diphenylphosphino)propane]nickel(II) dichloride | 0.15 mmol, 0.08 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | ether | 45 mmol, 3 M, 15 ml | CCOCC | C4H10O
product | 6-ethyl-2-methylimidazo[1,2-b]pyridazine | C(C)C=1C=CC=2N(N1)C=C(N2)C | C9H11N3
